* E:\OUT2\amp_filtrado_potencia.asc
Q4 v+ N009 N012 0 2N3904
R2 N012 N023 1k
R3 N009 0 390k
C2 vo2 N012 .69µ
Q5 N032 N035 v- 0 2N3904
Q6 N035 N035 v- 0 2N3904
Q7 VE N032 N035 0 2N3904
R4 v+ N032 5.6K
Q8 -vin1 vin P001 0 2N3904
Q9 vin1 -vin P002 0 2N3904
R5 vin 0 390k
R6 -vin 0 390K
R7 v+ vin1 1.1k
V4 v+ 0 12
V5 0 v- 12
R9 P001 VE 1K
R10 P002 VE 1K
V6 vin 0 SINE(0 1 50) AC 1.2
V7 -vin 0 SINE(0 -1 50) AC -1.2
C1 N009 vin1 100µ
Q10 v+ N010 N013 0 2N3904
R11 N013 N023 1k
R12 N010 0 390k
C4 N010 -vin1 100µ
C5 N010 N013 22µ
Q11 N019 vo2 N026 0 2N3904
R15 0 vo2 390k
R16 N019 v+ 5k
R17 N038 N026 5k
R20 v- N024 240
R21 N001 v+ 1k
R22 vooooo1 N003 1
R23 0 vooooo1 8
R24 v- N016 1
C7 N020 N019 100µ
C8 N014 N001 220µ
Q13 N014 N020 N024 0 2N3904
R28 N020 v+ 27k
R29 v- N020 4.7k
D1 N001 N005 1N4148
D2 N005 N007 1N4148
D3 N007 N014 1N4148
Q15 N042 N043 v- 0 2N3904
Q16 N043 N043 v- 0 2N3904
Q17 N038 N042 N043 0 2N3904
R8 v+ N042 11.3k
R13 N039 0 1
C12 N039 N038 100µ
C3 vo3 N013 100µ
Q12 N021 vo3 N028 0 2N3904
R25 0 vo3 100k
R26 N021 v+ 5k
R27 N036 N028 5k
R32 v- N025 240
R33 N002 v+ 1k
R34 vooooo2 N004 1
R35 0 vooooo2 8
R36 v- N017 1
C6 N022 N021 100µ
C9 N015 N002 220µ
Q14 N015 N022 N025 0 2N3904
R37 N022 v+ 27k
R38 v- N022 4.7k
D4 N002 N006 1N4148
D5 N006 N008 1N4148
D6 N008 N015 1N4148
Q18 N041 N041 v- 0 2N3904
Q19 N044 N041 v- 0 2N3904
Q20 N036 N041 N044 0 2N3904
R39 v+ N041 11.3k
R40 N037 0 1
C10 N037 N036 100µ
Q21 N034 N040 v- 0 2N3904
Q22 N040 N040 v- 0 2N3904
Q23 N023 N034 N040 0 2N3904
R14 v+ N034 5.6k
R41 vo2 0 1k
R42 vo3 0 1k
R43 v+ -vin1 1.1k
XU1 v+ N001 N003 tip122
XU2 v+ N002 N004 tip122
XU3 N016 N014 vooooo1 tip127
XU4 N017 N015 vooooo2 tip127
R44 N029 0 1.3k
C11 N029 N028 100µ
R45 N027 0 2k
C13 N027 N026 100µ
Q1 vin2 N011 N018 0 2N3904
R1 vin2 v+ 3.3k
Q2 N031 N033 v- 0 2N3904
Q3 N033 N033 v- 0 2N3904
Q24 N030 N031 N033 0 2N3904
R18 v+ N031 11.3
R19 N030 N018 1k
R30 N011 0 390k
C14 N011 -vin1 100µ
.model D D
.lib C:\Users\At\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\At\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran .1
.lib E:\OUT2\TIP122.LIB
.lib E:\OUT2\TIP127.LIB
.backanno
.end
