* E:\OUT2\amp_filtrado_potencia.asc
Q4 v+ N009 N012 0 2N3904
R2 N012 N024 1k
R3 N009 0 390k
C2 vo2 N012 .69µ
Q5 N033 N036 v- 0 2N3904
Q6 N036 N036 v- 0 2N3904
Q7 VE N033 N036 0 2N3904
R4 v+ N033 5.6K
Q8 -vin1 vin P001 0 2N3904
Q9 vin1 -vin P002 0 2N3904
R5 vin 0 390k
R6 -vin 0 390K
R7 v+ vin1 1.1k
V4 v+ 0 12
V5 0 v- 12
R9 P001 VE 1K
R10 P002 VE 1K
V6 vin 0 SINE(0 1 300) AC 1.2
V7 -vin 0 SINE(0 -1 300) AC -1.2
C1 N009 vin1 100µ
Q10 v+ N010 N013 0 2N3904
R11 N013 N024 1k
R12 N010 0 390k
C4 N010 vin2 100µ
C5 N010 N013 22µ
Q11 N020 vo2 N027 0 2N3904
R15 0 vo2 390k
R16 N020 v+ 5k
R17 N039 N027 5k
R20 v- N025 240
R21 N001 v+ 1k
R22 vooooo1 N003 1
R23 0 vooooo1 8
R24 v- N018 1
C7 N021 N020 100µ
C8 N014 N001 220µ
Q13 N014 N021 N025 0 2N3904
R28 N021 v+ 27k
R29 v- N021 4.7k
D1 N001 N005 1N4148
D2 N005 N007 1N4148
D3 N007 N014 1N4148
Q15 N043 N044 v- 0 2N3904
Q16 N044 N044 v- 0 2N3904
Q17 N039 N043 N044 0 2N3904
R8 v+ N043 11.3k
R13 N040 0 1
C12 N040 N039 100µ
C3 vo3 N013 100µ
Q12 N022 vo3 N029 0 2N3904
R25 0 vo3 100k
R26 N022 v+ 5k
R27 N037 N029 5k
R32 v- N026 240
R33 N002 v+ 1k
R34 vooooo2 N004 1
R35 0 vooooo2 8
R36 v- N019 1
C6 N023 N022 100µ
C9 N015 N002 220µ
Q14 N015 N023 N026 0 2N3904
R37 N023 v+ 27k
R38 v- N023 4.7k
D4 N002 N006 1N4148
D5 N006 N008 1N4148
D6 N008 N015 1N4148
Q18 N042 N042 v- 0 2N3904
Q19 N045 N042 v- 0 2N3904
Q20 N037 N042 N045 0 2N3904
R39 v+ N042 11.3k
R40 N038 0 1
C10 N038 N037 100µ
Q21 N035 N041 v- 0 2N3904
Q22 N041 N041 v- 0 2N3904
Q23 N024 N035 N041 0 2N3904
R14 v+ N035 5.6k
R41 vo2 0 1k
R42 vo3 0 1k
R43 v+ -vin1 1.1k
XU1 v+ N001 N003 tip122
XU2 v+ N002 N004 tip122
XU3 N018 N014 vooooo1 tip127
XU4 N019 N015 vooooo2 tip127
R44 N030 0 3k
C11 N030 N029 100µ
R45 N028 0 2k
C13 N028 N027 100µ
Q1 vin2 N011 N016 0 2N3904
R1 vin2 v+ 3.3k
Q2 N032 N034 v- 0 2N3904
Q3 N034 N034 v- 0 2N3904
Q24 N031 N032 N034 0 2N3904
R18 v+ N032 11.3k
R19 N031 N016 3.3k
R30 N011 0 390k
C14 N011 -vin1 100µ
C15 N017 N016 100µ
R31 N017 0 1k
.model D D
.lib C:\Users\At\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\At\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran .1
.lib E:\OUT2\TIP122.LIB
.lib E:\OUT2\TIP127.LIB
.backanno
.end
